US05552379
To a suspension of pyridinium chlorochromate (PCC, Fluka, 3.24 g, 15 mmole) in dichloromethane (20ml), there was added at room temperature, a solution of 5-tert-butyl-2-indanmethanol (2.04 g, 10 mmole) in dichloromethane (10 ml). The mixture was stirred for 5 h at room temperature. It was diluted in ether (50 ml), filtered on CELITE®, then on a FLORISIL® column (Fluka), and concentrated. Bulb-to-bulb distillation provided 5-tert-butyl-2-indancarbaldehyde (1.47 g, purity>99%, yield 72%) as a colorless oil.

reactant | pyridinium chlorochromate | 15 mmole, 3.24 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 5-tert-butyl-2-indanmethanol | 10 mmole, 2.04 g | C(C)(C)(C)C=1C=C2CC(CC2=CC1)CO | C14H20O
solvent | dichloromethane | 20ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-tert-butyl-2-indancarbaldehyde | 1.47 g, yield 72% | C(C)(C)(C)C=1C=C2CC(CC2=CC1)C=O | C14H18O
